US04663202
Vinyl benzene phosphonate was prepared by chloromethylating benzene by the procedure of Kindler, Hansen and Koebk (Ann. Chem. 617, 25, 1958). 1 mole p-(2-chloroethyl)-α-chlorotoluene was heated to 140°-155° C. under N2 and 95 ml triethyl phosphite was added. The mixture was heated for one hour and then diethyl-p-(2-chloroethyl)-benzyl phosphonate was distilled off at 140°-150° C./0.2 torr. The ethyl ester was hydrolysed for two hours using a 2:3 v/v mixture of 48% HBr and formic acid. The product was dehydrochlorinated using potassium ethoxide followed by acidification with HCl. The monomer was then flash distilled using 10-5 torr vacuum at room temperature.

reactant | p-(2-chloroethyl)-α-chlorotoluene | 1 mole | ClCCC1=CC=C(C=C1)CCl | C9H10Cl2
reactant | triethyl phosphite | 95 ml | P(OCC)(OCC)OCC | C6H15O3P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Vinyl benzene phosphonate | P(O)(O)=O.C(=C)C1=CC=CC=C1 | InChI=1S/C8H8.H3O3P/c1-2-8-6-4-3-5-7-8;1-4(2)3/h2-7H,1H2;4H,(H2,1,2,3)
